*$
* ALM2402Q1
*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: ALM2402Q1
* Date: 03/16/2017
* Model Type: All IN ONE
* Simulator: PSPICE
* Simulator Version: 17.4-2019 S006
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
*
*
* Model Version: 1.3
*
*****************************************************************************
*
* Updates: Revise Zout feature
*
* Version: 1.3
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. Model file is updated with latest header.
* 2. The following parameters are modeled:AOL,Slew Rate,input referred noise
*    VOH/VOL for IOUT < 300mA, CMRR, IQ, VOS, IIB, IOS, Zout, ISC
* 3. The following parameters are not modeled: PSRR
*****************************************************************************
*$
.SUBCKT ALM2402Q1 OUT INP INN VCC VEE VCC_O 
C_C4         INN INP  1p  TC=0,0 
E_E2         NVEE 0 VEE 0 1
X_U28         INPUTP_GBW INPUTN_GBW VCC VEE INPUTP_ICMR INPUTN_ICMR EN GNDF
+  ICMR 
X_U12         INPUT_TF INPUT_VCLAMP VCC VEE EN GNDF TF
E_E5         INPUTP_CMRR INPUTP_ICMR OUT_CMRR GNDF 0.5
X_U31         INPUT_VIMON OUT VIMON GNDF AMETER 
X_U33         INPUTP_GBW INPUTN_GBW INPUT_TF EN VCC VEE GNDF GBW_SLEW_OUTLIMITS
+  
X_U5         VICM INP INN GNDF VICM
X_U30         INPUTP_CMRR INPUT_VOS VICM VCC VEE GNDF VOS 
G_G1         OUT_CMRR GNDF VICM GNDF -4e-5
X_U34         VCC_O VEE INPUT_VCLAMP INPUT_ZOUT VIMON GNDF VOUTVSIOUT_NROS 
C_U6_C8         U6_N94209 U6_Z3_OUT  0.015p  TC=0,0 
G_U6_G7         U6_N19661 0 U6_Z3_OUT 0 -1
G_U6_G3         U6_N19661 0 U6_P3_OUT 0 -1
R_U6_R11         0 U6_Z3_OUT  1k TC=0,0 
C_U6_C5         0 U6_P2_OUT  1.59p  TC=0,0 
G_U6_G4         U6_N19661 0 U6_P2_OUT 0 -1
R_U6_R8         U6_P2_OUT U6_N61462  1k TC=0,0 
E_U6_E5         U6_N19437 0 U6_AOL_ZO_IN 0 5.22e4
G_U6_G6         U6_N19661 0 U6_Z3_OUT 0 -1
E_U6_E9         U6_N72665 0 U6_AOL_ZO_IN 0 65
R_U6_R6         U6_OUT_E4_ZO INPUT_VIMON  1k TC=0,0 
E_U6_E11         U6_Z3_OUT 0 U6_AOL_ZO_IN 0 1.5
C_U6_C4         U6_N58000 U6_Z1_OUT  265n  TC=0,0 
R_U6_R5         0 U6_N19661  1 TC=0,0 
C_U6_C7         U6_N72665 U6_Z2_OUT  7n  TC=0,0 
R_U6_R10         0 U6_Z2_OUT  1k TC=0,0 
C_U6_C3         0 U6_P1_OUT  15e-2  TC=0,0 
R_U6_R12         0 U6_Z3_OUT  1k TC=0,0 
G_U6_G5         U6_N19661 0 U6_Z2_OUT 0 -1
E_U6_E7         U6_N62174 0 U6_Z1_OUT 0 1
R_U6_R4         U6_P1_OUT U6_N19437  1k TC=0,0 
E_U6_E10         U6_N94209 0 U6_AOL_ZO_IN 0 6400
E_U6_E3         U6_AOL_ZO_IN 0 INPUT_ZOUT INPUT_VIMON 1
E_U6_E8         U6_N61462 0 U6_P1_OUT 0 1
R_U6_R7         0 U6_Z1_OUT  1k TC=0,0 
C_U6_C6         0 U6_P3_OUT  1.99n  TC=0,0 
R_U6_R9         U6_P3_OUT U6_N62174  1k TC=0,0 
E_U6_E6         U6_N58000 0 U6_AOL_ZO_IN 0 167
E_U6_E4         U6_OUT_E4_ZO 0 U6_N19661 0 1
X_U26         VCC VEE INPUT_OUTN INPUTN_CMRR GNDF PSRR 
R_R1         VMIDZ NVCC  1e6 TC=0,0 
I_I2         INPUT_OUTN GNDF DC 85nAdc  
X_U20         VCC VEE EN VIMON GNDF IQ
R_R4         INN INPUT_OUTN  1 TC=0,0 
V_V1         EN GNDF 1Vdc
R_R2         NVEE VMIDZ  1e6 TC=0,0 
C_C1         0 VMIDZ  1m  TC=0,0 
I_I1         INPUT_VOS GNDF DC 115nAdc  
R_R3         INP INPUT_OUTP  1 TC=0,0 
X_U23         INPUT_OUTN INPUT_VOS femt
E_E3         GNDF 0 VMIDZ 0 1
R_R5         N114739 GNDF  1 TC=0,0 
C_C2         INN GNDF  2p  TC=0,0 
E_E1         NVCC 0 VCC 0 1
L_L1         OUT_CMRR N114739  8uH  
C_C3         GNDF INP  2p  TC=0,0 
E_E4         INPUTN_CMRR INPUTN_ICMR OUT_CMRR GNDF -0.5
X_U32         INPUT_OUTP INPUT_VOS vnse 
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT VNSE 1 2 
.PARAM NLF = 3200 
.PARAM FLW = 1  
.PARAM NVR = 1
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT ICMR   VOP VOM VDD VSS VIP VIM SHDN GNDF 
.PARAM VMAX = -0.12 
.PARAM VMIN = -0.12
ECLAMPP  VOP GNDF VALUE = {LIMIT(V(VIP,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
ECLAMPM  VOM GNDF VALUE = {LIMIT(V(VIM,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.subckt femt 1 2 
.param nlff = 1 
.param flwf = 22 
.param nvrf = 1.3
.param glff={pwr(flwf,0.25)*nlff/1164}
.param rnvf={1.184*pwr(nvrf,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
i2 0 8 10e-3
d1 7 0 dvnf
d2 8 0 dvnf
e1 3 6 7 8 {glff}
r1 3 0 1e9
r2 3 0 1e9
r3 3 6 1e9
e2 6 4 5 0 10
r4 5 0 {rnvf}
r5 5 0 {rnvf}
r6 3 4 1e9
r7 4 0 1e9
g1 1 2 3 4 1e-6
c1 1 0 1e-15
c2 2 0 1e-15
c3 1 2 1e-15
.ends
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT TF  VI  VO  VCC VEE SHDN GNDF
.PARAM fz1 = 3e5
.PARAM fp1 = 9e5 
.PARAM fp2 = 10e6 
.PARAM fp3 = 10e6 
.PARAM fp4 = 10G
.PARAM Gm = 1M
.PARAM Ro = {1/Gm}
.PARAM PI = 3.141592
.PARAM gL = 1M
Gp1  GNDF Vp1 VI GNDF {Gm}
Rp1  Vp1 GNDF {Ro}
Cp1  Vp1 GNDF {1/(2*PI*Ro*fp1)} IC = 0
Gp2  GNDF Vp2 Vp1 GNDF {Gm}
Rp2  Vp2 GNDF {Ro}
Cp2  Vp2 GNDF {1/(2*PI*Ro*fp2)} IC = 0
Gp3  GNDF Vp3 Vp2 GNDF {Gm}
Rp3  Vp3 GNDF {Ro}
Cp3  Vp3 GNDF {1/(2*PI*Ro*fp3)} IC = 0
Gp4  GNDF Vp4 Vp3 GNDF {Gm}
Rp4  Vp4 GNDF {Ro}
Cp4  Vp4 GNDF {1/(2*PI*Ro*fp4)} IC = 0
Gz1  GNDF VO Vp4 GNDF {Gm}
Rz1  VO Vz1 {Ro}
Lz1  Vz1 GNDF {Ro/(2*PI*fz1)}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT AMETER  VI  VO VIMON GNDF
.PARAM GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON GNDF VALUE = {I(VSENSE)*GAIN}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT VICM OUT INP INN GNDF
EOUT OUT GNDF VALUE = {0.5*(V(INP,GNDF) + V(INN,GNDF))}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT VOS OUT IN VICM VCC VEE GNDF
*** Units are in uV ***
.PARAM SCALE = 1e-6
.PARAM DRIFT = 2
.PARAM VICM_SHIFT = 10
.PARAM VCC_SHIFT = 30
.PARAM VOS_TYP = 5000
EDRIFT NDRIFT 0 VALUE = {DRIFT*(TEMP - 27)}
ESHIFT NSHIFT 0 VALUE = {VICM_SHIFT*V(VICM,GNDF)}
EVCC NVCC 0 VALUE = {V(VCC,VEE)}
EVCCSHIFT NVCCSHIFT 0 VALUE = {VCC_SHIFT*(V(NVCC) - 5.5)}
* Assumes temp drift, VOS shift from VICM & VCC are indepndent and additive
EVOS OUT IN VALUE = {SCALE*(VOS_TYP + V(NDRIFT) + V(NSHIFT) + V(NVCCSHIFT))}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT PSRR  VDD  VSS  VI  VO  GNDF 
.PARAM PSRR = 90 
.PARAM fpsrr = 1
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*fpsrr)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR} 
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P 
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT IQ VCC VEE SHDN VIMON GNDF
.PARAM IQ_NOM = 5e-3
.PARAM IQ_SHDN = 8.5n
.PARAM Geq = 1u
* Assumes: V(SHDN) = 1 when device is enabled
*          V(SHDN) = 0 when device is disabled
*** IQ varying w/supply, negligible in shutdown ***
GVAR VCC VEE VALUE = {(V(SHDN,GNDF)+ 1e-9)*Geq}
*** Nominal IQ       ---Enabled---     ---Shutdown----
GIQ VCC VEE VALUE = {V(SHDN,GNDF)*IQ_NOM + (1-V(SHDN,GNDF))*IQ_SHDN}
GOUTP VCC GNDF VALUE = {IF(V(VIMON,GNDF) > 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
*GOUTN GNDF VEE VALUE = {IF(V(VIMON,GNDF) <= 0, V(VIMON)*V(SHDN),0)}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT VOUTvsIOUT_NROS  VCC  VEE  VI  VO VIMON  GNDF
.PARAM ISC = 0.60
* MAX linear current
.PARAM IMAXLIN = 0.4
* Output voltage headroom at MAX linear current
.PARAM VHR1 = 0.2
* Output voltage at IOUT = 0
.PARAM VHR0 = 0.01
**
*** Calc MAX/MIN VOUT for IOUT < IMAXLIN ***
* Negative of slope of VOUT/IOUT curve for IOUT < IMAXLIN
ER1 NR1 GNDF VALUE = {(VHR1  - VHR0)/IMAXLIN}
* MAX/MIN VOUT for IOUT < IMAXLIN
* V(VCC,GNDF) - VHR0 is the y-intercept: MAX VOUT for IOUT = 0
EVOUT1pos NVOUT1_MAX GNDF VALUE = {V(VCC,GNDF) - VHR0 - V(NR1,GNDF)*V(VIMON,GNDF)}
EVOUT1neg NVOUT1_MIN GNDF VALUE = {V(VEE,GNDF) + VHR0 - V(NR1,GNDF)*V(VIMON,GNDF)}
********************************************
* 
*** Calc MAX/MIN VOUT for IMAXLIN < IOUT < ISC ***
* V(NV2,GNDF) is the the theoretical MAX VOUT for IMAXLIN < IOUT < ISC
* For the VOUT vs IOUT curve, it is the y-intercept for  this part of the curve
EV2 NV2 GNDF VALUE = {(V(VCC,GNDF) - VHR0 - V(NR1,GNDF)*IMAXLIN)/(1 - IMAXLIN/ISC)}
* Negative slope of VOUT/IOUT curve for IMAXLIN < IOUT < ISC
ER2 NR2 GNDF VALUE = {V(NV2,GNDF)/ISC}
EVOUT2pos NVOUT2_MAX GNDF VALUE = {V(NV2,GNDF) - V(VIMON,GNDF)*V(NR2,GNDF)}
EVOUT2neg NVOUT2_MIN GNDF VALUE = {-V(NV2,GNDF) - V(VIMON,GNDF)*V(NR2,GNDF)}
*********************************************
*
*** Choose MAX/MIN VOUT based on IOUT (VIMON) ***
*** Pick one of the two asymptotes cac's above
EHRPOS HRPOS GNDF VALUE = {MIN(V(NVOUT1_MAX,GNDF),V(NVOUT2_MAX,GNDF))}
EHRNEG HRNEG GNDF VALUE = {MAX(V(NVOUT1_MIN,GNDF),V(NVOUT2_MIN,GNDF))}
*************************************************
*
*** Clamp output if req'd
ECLAMP  VO GNDF VALUE = {MAX(MIN(V(VI,GNDF), V(HRPOS,GNDF)), V(HRNEG,GNDF))}
**
*
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT GBW_SLEW_OUTLIMITS  VIP  VIM  VO SHDN VCC VEE GNDF 
.PARAM Aol = 100  
.PARAM GBW = 2.5e5  
.PARAM SRP = 0.19e6  
.PARAM SRN = 0.19e6 
.PARAM IT = 0.001
.PARAM PI = 3.141592
.PARAM IP = {IT*MAX(1,SRP/SRN)}
.PARAM IN = {IT*MIN(-1,-SRN/SRP)}
.PARAM CC = {IT*MAX(1/SRP,1/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
* Loading the VO pin with an external resistor will change the AOL.
G1p GNDF OUTG1p VALUE = {MAX(MIN(GC*V(SHDN,GNDF)*V(VIP,VIM),IP),IN)}
G1n OUTG1n GNDF VALUE = {MAX(MIN(GC*V(SHDN,GNDF)*V(VIP,VIM),IP),IN)}
E1OUT VO GNDF VALUE = {MAX(MIN(V(SHDN,GNDF)*V(OUTG1p,OUTG1n),V(VCC,GNDF)),V(VEE,GNDF))}
*G1OUT GNDF VO VALUE = {V(SHDN,GNDF)*V(OUTG1p,OUTG1n)}
*G1OUT GNDF VO VALUE = {MAX(MIN(V(SHDN,GNDF)*V(OUTG1p,OUTG1n),10),-10)}
*G1OUT GNDF VO OUTG1p OUTG1n 1
RG1p OUTG1p GNDF {0.5*RC}
Cg1dp OUTG1p GNDF {2*CC} IC=0
RG1n OUTG1n GNDF {0.5*RC}
Cg1dn OUTG1n GNDF {2*CC} IC=0
*ROUT VO GNDF 1
*G1 GNDF OUTG1 VALUE = {MAX(MIN(GC*V(VIP,VIM),IP),IN)}
*G1OUT GNDF VO VALUE = {V(SHDN,GNDF)*V(OUTG1,GNDF)}
*C1 OUTG1 GNDF {CC} IC=0
*R1 OUTG1 GNDF {RC}
*ROUT VO GNDF 1
.ENDS
*$

